US07091215B2
2-Ethylpyrazolo[1,5-a]pyridine
A 6.1 g portion of the obtained N-amino-2-(1-butynyl)pyridinium mesitylenesulfonate was dissolved in tetrahydrofuran (600 mL), potassium tert-butoxide (3.55 g) was added at room temperature, and the mixture was vigorously stirred for 30 minutes. After adding ice water to the reaction mixture, extraction was performed with ethyl acetate. The aqueous layer was again extracted with ethyl acetate, the insoluble portion was filtered with a celite filter, and the organic layers were combined and washed with brine. After drying over anhydrous magnesium sulfate and filtration, the solvent was concentrated under reduced pressure, the residue was purified by silica gel column chromatography, and the title compound (0.63 g) was obtained from the n-hexane:ethyl acetate (10:1) fraction as a light yellow oil.

reactant | N-amino-2-(1-butynyl)pyridinium mesitylenesulfonate | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)[O-])C.N[N+]1=C(C=CC=C1)C#CCC
reactant | potassium tert-butoxide | 3.55 g | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 600 mL | O1CCCC1 | C4H8O
product | 2-Ethylpyrazolo[1,5-a]pyridine | 0.63 g | C(C)C1=NN2C(C=CC=C2)=C1 | C9H10N2
